US06599915B2
2,3-Dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate
To a solution of {(2R)-7-nitro-8-[3-oxo-1-propenyl]-2,3-dihydro-1,4-benzo-dioxin-2-yl}methyl 4-methylbenzenesulfonate (3.50 g, 8.35 mmole) in 200 mL of acetic acid/ethanol (1:1) was added 2.35 g (42.1 mmole) of iron powder and the mixture was heated at reflux under nitrogen for 8 hours. After the reaction was complete, 150 mL of water was added and the mixture filtered through a pad of celite. The filtrate was neutralized with saturated sodium bicarbonate and extracted with ethyl acetate. The extract was dried over magnesium sulfate, filtered and evaporated in vacuum. The residue was column chromatographed on silica gel using a gradient elution commencing with 20% ethyl acetate/hexane and ending with 70% ethyl acetate/hexane to give 1.85 g of the (R)-enantiomer of the title compound as a yellow oil. 1H-NMR (CDCl3): doublet 8.8 δ(1 H); doublet 8.2 δ(1 H); doublet 7.8 δ(2 H); doublet 7.6 δ(1 H); multiplet 7.35 δ(1 H); multiplet 7.25 δ(3 H); multiplet 4.6 δ(1 H); multiplet 4.3-4.4 δ(3 H); multiplet 4.2 δ(1 H); singlet 2.4 δ(3 H).

reactant | {(2R)-7-nitro-8-[3-oxo-1-propenyl]-2,3-dihydro-1,4-benzo-dioxin-2-yl}methyl 4-methylbenzenesulfonate | 8.35 mmole, 3.50 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])C=CC=O | C19H17NO8S
reactant | water | 150 mL | O | H2O
solvent | acetic acid ethanol | 200 mL | C(C)(=O)O.C(C)O
catalyst | iron | 42.1 mmole, 2.35 g | [Fe] | Fe
product | 2,3-Dihydro[1,4]dioxino[2,3-f]quinolin-2-ylmethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC=2C(=C3C=CC=NC3=CC2)O1 | C19H17NO5S
